US06265398B1
Preparation of 2-azido-6-methoxytetralin
8.0 g (31 mmol) of 2-methanesulfonyloxy-6-methoxytetralin and 2.6 g (40 mmol) of sodium azide were heated for 3 hours at 90° C. in 100 ml of DMF. After the mixture had been cooled, it was diluted with ether, washed with water and saturated NaCl solution, dried and concentrated in vacuo. This gave 6 g (95% of theory) of a colorless oil which was further reacted directly.

reactant | 2-methanesulfonyloxy-6-methoxytetralin | 31 mmol, 8.0 g | CS(=O)(=O)OC1CC2=CC=C(C=C2CC1)OC | C12H16O4S
reactant | sodium azide | 40 mmol, 2.6 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 2-azido-6-methoxytetralin | N(=[N+]=[N-])C1CC2=CC=C(C=C2CC1)OC | C11H13N3O
